US04970213
The reaction is carried out under the conditions of Reference Example 5 but starting from 2 g of 8-chloro-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid and 2.74 g of 1-ethylpiperazine in 20 cm, of pyridine. The pure product is isolated after a first recrystallization from 105 cm3 of ethanol containing 25% of dimethylformamide followed by a second recrystallization from 75 cm3 of ethanol containing 50% of dimethylformamide. 0.67 g of 1-cyclopropyl-8-(4-ethyl-1-piperazinyl)-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow-green solid melting at 254° C.

reactant | 8-chloro-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 2 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C2CC2)C1)F | C16H10ClFN2O3
reactant | 1-ethylpiperazine | 2.74 g | C(C)N1CCNCC1 | C6H14N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-8-(4-ethyl-1-piperazinyl)-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 0.67 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CCN(CC3)CC)=O)C(=O)O | C22H23FN4O3
